US05482941
t-Butyl 3-(8-methylquinazolin-4(3H)-on-2-yl)-4-n-propoxycinnamate
The title compound was prepared from 2-(5-bromo-2-n-propoxyphenyl)-8 -methylquinazolin-4(3H)-one (Preparation 11) and t-butyl acrylate following the procedure of Example 9 and was obtained as colorless crystals (18%), m.p. 196°-197° C. Found: C,71.54; H,6.90; N,6.69. C25H28N2O4 requires C,71.41; H,6.71; N,6.66%.

reactant | 2-(5-bromo-2-n-propoxyphenyl)-8 -methylquinazolin-4(3H)-one | BrC=1C=CC(=C(C1)C1=NC2=C(C=CC=C2C(N1)=O)C)OCCC | C18H17BrN2O2
reactant | t-butyl acrylate | C(C=C)(=O)OC(C)(C)C | C7H12O2
product | t-Butyl 3-(8-methylquinazolin-4(3H)-on-2-yl)-4-n-propoxycinnamate | CC=1C=CC=C2C(NC(=NC12)C=1C=C(C=CC(=O)OC(C)(C)C)C=CC1OCCC)=O | C25H28N2O4
